US08609644B2
6α-Formamidomethylandrostane-3,17-dione (II-bl)
The title compound II-bl was prepared in 92% yield from 3,3:17,17-bis(ethylendioxy)-6α-formamidomethylandrostane by the procedure described above for the preparation of 6α-cyanoandrostane-3,17-dione (II-ac, Prepn. 3). 1H-NMR (300 MHz, DMSO, ppm from TMS): δ 7.99 (0.9H, s), 7.94 (0.9H, m), 7.88 (0.1H, d), 7.67 (0.1H, m), 3.15 (1H, m), 2.87 (1H, m), 2.40-1.00 (21H, m), 0.98 (3H, s), 0.79 (3H, s).

reactant | 17,17-bis(ethylendioxy)-6α-formamidomethylandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@@H](C3CCCC[C@]3(C)[C@H]1CC4)CNC=O | C25H39NO5
reactant | 6α-cyanoandrostane-3,17-dione | C(#N)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H27NO2
product | 6α-Formamidomethylandrostane-3,17-dione | 92% yield | C(=O)NC[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C21H31NO3
